US06949579B2
415 mg of 4-pyridylboronic acid are added to 1 g of N-[[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]]butanamide, described previously, in Example 58, in 90 cm3 of dioxane, followed by addition of a solution of 570 mg of sodium carbonate in 18 cm3 of water and finally 173 mg of tetrakis-(triphenylphosphine)palladium, and the mixture is refluxed for 18 hours. The reaction medium is diluted with 75 cm3 of ethyl acetate and 50 cm3 of water. The organic phase is separated out after settling of the phases has taken place, washed with 50 cm3 of water and 50 cm3 of saturated sodium chloride solution, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 50° C.). The crude product obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate mixture (60/40 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); 770 mg of N-[6-chloro-5-(4-pyridyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide are obtained in the form of white crystals.

reactant | 4-pyridylboronic acid | 415 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | N-[[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]]butanamide | 1 g | BrC=1C=C2C(=NN(C2=CC1Cl)COCC[Si](C)(C)C)NC(CCC)=O | C17H25BrClN3O2Si
reactant | sodium carbonate | 570 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 90 cm3 | O1CCOCC1 | C4H8O2
solvent | water | 18 cm3 | O | H2O
solvent | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 50 cm3 | O | H2O
product | N-[6-chloro-5-(4-pyridyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 770 mg | ClC1=C(C=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)C1=CC=NC=C1 | C22H29ClN4O2Si
